US07402680B2
3-Benzo[1,3]dioxol-5-yl-1-be nzyl-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine
The title compound (306.0 mg) was prepared from 0.49 g of 4-oxo-piperidine-1-carboxylic acid tert-butyl ester, 268 μL of benzylamine, and 0.48 g of 5-(2-nitro-vinyl)-benzo[1,3]dioxole. MS (ESI): exact mass calculated for C21H20N2O2, 332.15; found, m/z 333.2 [M+H]+. 1H NMR (400 MHz, CD3OD): 7.36-7.30 (m, 2H), 7.29-7.24 (m, 1H), 7.18-7.14 (m, 2H), 7.01 (s, 1H), 6.85-6.75 (m, 3H), 5.93 (s, 2H), 5.12 (s, 2H), 4.31 (s, 2H), 3.49 (t, J=6.3 Hz, 2H), 2.85 (t, J=6.3 Hz, 2H).

reactant | 4-oxo-piperidine-1-carboxylic acid tert-butyl ester | 0.49 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | benzylamine | 268 μL | C(C1=CC=CC=C1)N | C7H9N
reactant | 5-(2-nitro-vinyl)-benzo[1,3]dioxole | 0.48 g | [N+](=O)([O-])C=CC1=CC2=C(OCO2)C=C1 | C9H7NO4
product | 3-Benzo[1,3]dioxol-5-yl-1-be nzyl-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine | 306.0 mg | O1COC2=C1C=CC(=C2)C2=CN(C1=C2CNCC1)CC1=CC=CC=C1 | C21H20N2O2
